US04507241
To 0.216 g (1.62 mmoles) of AlCl3 in 50 mL of THF was added 7.0 g (0.697 mmoles/g in THF, 4.88 mmoles) of dodecyl MgBr. This mixture was added dropwise to 1.27 g (9.34 mmoles) of ZnCl2 and 1.00 g (4.67 mmoles) of 2,3-dimethoxy-1,4-naphthoquinone in 50 mL of THF. The mixture was stirred overnight, poured into 100 mL of NH4Cl solution, extracted with 3×50 mL of ether, dried over MgSO4, filtered, and solvent was removed by rotary evaporation. The residue was chromatographed on silica gel eluted with toluene. Thus, 0.034 g (0.096 mmoles, 2.1%) of 2-methoxy-3-dodecylnaphthoquinone was obtained.

reactant | AlCl3 | 1.62 mmoles, 0.216 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,3-dimethoxy-1,4-naphthoquinone | 4.67 mmoles, 1.00 g | COC=1C(C2=CC=CC=C2C(C1OC)=O)=O | C12H10O4
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 9.34 mmoles, 1.27 g | [Cl-].[Cl-].[Zn+2]
product | 2-methoxy-3-dodecylnaphthoquinone | 0.096 mmoles, 0.034 g, 2.1% | COC=1C(C2=CC=CC=C2C(C1CCCCCCCCCCCC)=O)=O | C23H32O3
